US04794183
dl-cis-2-Benzyloxymethyl-3-mercaptotetrahydropyran
1.04 ml of a methanolic solution containing about 28% w/w of sodium methoxide was added dropwise at -10° C. to a solution of 1.422 g of dl-cis-2-benzyloxymethyl-3-acetylthiotetrahydropyran (prepared as described in Preparation 15) in 30 ml of methanol. The reaction mixture was stirred at between -10° and 0° C. for 2 hours, after which 0.33 ml of methanesulfonic acid was added. The reaction mixture was then poured into water and extracted with ethyl acetate. The extract was washed with water, dried and concentrated by evaporation under reduced pressure. The oily residue thus obtained was subjected to column chromatography through 30 g of silica gel. The fraction eluted with mixtures of diethyl ether and hexane ranging from 3:97 to 5:95 by volume was collected to give 1.146 g of the title compound as an oil.

reactant | sodium methoxide | C[O-].[Na+]
reactant | cis-2-benzyloxymethyl-3-acetylthiotetrahydropyran | C(C1=CC=CC=C1)OC[C@@H]1OCCC[C@@H]1SC(C)=O | C15H20O3S
reactant | methanesulfonic acid | 0.33 ml | CS(=O)(=O)O | CH4O3S
reactant | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | cis-2-Benzyloxymethyl-3-mercaptotetrahydropyran | 1.146 g | C(C1=CC=CC=C1)OC[C@@H]1OCCC[C@@H]1S | C13H18O2S
